US08957064B2
isopropyl-(6-phenyl-2-pyridine-2-yl-5-{4-[3-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-[1,2,4]triazolo[1,5-a]pyrimidin-7-yl)-amine
138.8 mg (0.51 mmol) 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-6-methylpyridine×2HCl (60% pure) are dissolved in 3.9 mL NMP. 0.15 mL (1.08 mmol) triethylamine are added and the reaction mixture is stirred for one hour. 200 mg (0.46 mmol) 4-(7-Isopropylamino-6-phenyl-2-pyridine-2-yl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde and 0.05 mL (0.83 mmol) acetic acid are added. The reaction mixture is stirred over night at room temperature. 107 mg (0.51 mmol) NaBH(OAc)3, are added in portions and the reaction mixture is stirred at room temperature over night. The reaction mixture is treated with NaHCO3 and the formed precipitate has been filtered off. The filtrate is extracted with methyl-tert.butylether. The organic phase is washed with water, dried (Na2SO4) and the solvent removed. This residue and the precipitate are combined and purified by column chromatography (silicagel, eluents: dichloromethane/methanol) and additionally by HPLC yielding 7.4 mg (2.54%) of the desired compound.

reactant | 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-6-methylpyridine | 0.51 mmol, 138.8 mg | N1CC(C1)C1=NC(=NN1)C1=NC(=CC=C1)C | C11H13N5
reactant | triethylamine | 1.08 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(7-Isopropylamino-6-phenyl-2-pyridine-2-yl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | 0.46 mmol, 200 mg | C(C)(C)NC1=C(C(=NC=2N1N=C(N2)C2=NC=CC=C2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2 | C26H22N6O
reactant | acetic acid | 0.83 mmol, 0.05 mL | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.51 mmol, 107 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NMP | 3.9 mL | CN1CCCC1=O | C5H9NO
product | isopropyl-(6-phenyl-2-pyridine-2-yl-5-{4-[3-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-[1,2,4]triazolo[1,5-a]pyrimidin-7-yl)-amine | 7.4 mg, 2.54% | C(C)(C)NC1=C(C(=NC=2N1N=C(N2)C2=NC=CC=C2)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC(=CC=C2)C)C2=CC=CC=C2 | C37H35N11
